US04415569
The mixture of 2 g of 2,3-dihydro-7-carboxy-9-phenyl-1H-pyrazolo[1,2-a]indazolium chloride and 30 ml of thionyl chloride was heated at 50° C. for 30 minutes with stirring, and the resulting reaction mixture was concentrated to produce residue. The mixture of the above residue, 50 ml of chloroform and 5 ml of morpholine was stirred at room temperature for 30 minutes, and then the mixture was filtered. The filtrate was concentrated to produce an oily product, which was purified by column chromatography on HP-2MG® (Mitsubishi Chemical Industries Limited) using water as an eluent to produce 1.5 g of 2,3-dihydro-7-morpholino carbonyl-9-phenyl-1H-pyrazolo[1,2-a]indazolium chloride as an oily substance.

reactant | 2,3-dihydro-7-carboxy-9-phenyl-1H-pyrazolo[1,2-a]indazolium chloride | 2 g | [Cl-].C(=O)(O)C1=CC2=C(N3[N+](=C2C=C1)CCC3)C3=CC=CC=C3
reactant | thionyl chloride | 30 ml | S(=O)(Cl)Cl | Cl2OS
reactant | morpholine | 5 ml | N1CCOCC1 | C4H9NO
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | 2,3-dihydro-7-morpholino carbonyl-9-phenyl-1H-pyrazolo[1,2-a]indazolium chloride | 1.5 g | [Cl-].O1CCN(CC1)C(=O)C1=CC2=C(N3[N+](=C2C=C1)CCC3)C3=CC=CC=C3 | InChI=1S/C21H22N3O2.ClH/c25-21(22-11-13-26-14-12-22)17-7-8-19-18(15-17)20(16-5-2-1-3-6-16)24-10-4-9-23(19)24;/h1-3,5-8,15H,4,9-14H2;1H/q+1;/p-1
